US03950333
A solution of 3-chloromethylisoxazole (5.8 g.) and cysteamine hydrochloride (6.25 g.) in aqueous hydrobromic acid (48%, 100 ml) was heated under reflux for 6 hours. Concentration in the presence of water and subsequently n-propanol, followed by recrystallisation of the residue from isopropyl alcohol-ethanol afforded 3-[(2-aminoethyl)thiomethyl]isoxazole hydrobromide, m.p. 131°-133°. (Found: Br, 33.6; S, 13.7. C6H10N2O S. H Br requires: Br, 33.4; S, 13.4).

reactant | 3-chloromethylisoxazole | 5.8 g | ClCC1=NOC=C1 | C4H4ClNO
reactant | cysteamine hydrochloride | 6.25 g | Cl.NCCS
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 3-[(2-aminoethyl)thiomethyl]isoxazole hydrobromide | Br.NCCSCC1=NOC=C1 | InChI=1S/C6H10N2OS.BrH/c7-2-4-10-5-6-1-3-9-8-6;/h1,3H,2,4-5,7H2;1H
